USRE037029E1
A mixture of 6-fluoro-3-(4-piperidinyl)-1,2-benzisoxazole (2.0 g, 9 mmol), N-(3-chloropropyl)-6-acetyl-2-benzoxazolinone (2.4 g, 9 mmol), K2CO3 (3.6 g), a few crystals of KI, and acetonitrile (50 ml) was stirred and refluxed for 13 hours. The reaction was poured into water, and a dark, brown solid that separated was collected to afford 3.3 g of crude product. The solid was chromatographed on a Waters Prep 500 HPLC. Concentration of appropriate fractions afforded 2.3 g of a yellow solid, and recrystallization from ethyl acetate yielded 1.2 g (31%) of N-[3-[4-(6-fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]-6-acetyl-2-benzoxazolinone, m.p.=152°-154° C.

reactant | 6-fluoro-3-(4-piperidinyl)-1,2-benzisoxazole | 9 mmol, 2.0 g | FC1=CC2=C(C(=NO2)C2CCNCC2)C=C1 | C12H13FN2O
reactant | N-(3-chloropropyl)-6-acetyl-2-benzoxazolinone | 9 mmol, 2.4 g | ClCCCN1C(OC2=C1C=CC(=C2)C(C)=O)=O | C12H12ClNO3
reactant | K2CO3 | 3.6 g | C(=O)([O-])[O-].[K+].[K+]
reactant | acetonitrile | 50 ml | C(C)#N | C2H3N
solvent | water | O | H2O
product | 3-[4-(6-fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]-6-acetyl-2-benzoxazolinone | FC1=CC2=C(C(=NO2)C2CCN(CC2)N2C(OC3=C2C=CC(=C3)C(C)=O)=O)C=C1 | C21H18FN3O4
